US07271197B2
v) (5R)-5-(2,2-Dimethyl-4H-1,3-benzodioxin-6-yl)-3-[2-(4-hydroxyphenyl)ethyl]-1,3-oxazolidin-2-one
A solution of (1R)-2-{[2-(4-{[tert-butyl(dimethyl)silyl]oxy}phenyl)ethyl]amino}-1-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)ethanol (4.803 g) in THF (100 ml) under nitrogen was treated with 1,1′carbonyldimidazole (1.702 g) and the mixture was stirred at 20° for 21.5 h. Water (125 ml) was added, the mixture was stirred for 10 min and then extracted with Et2O. The extract was dried (Na2SO4) and the solvent evaporated in vacuo. The residue was dissolved in THF (60 ml) and was treated with a solution of tetrabutyl ammonium fluoride in THF (1.0 M, 15.95 ml). The mixture was stirred at 20° for 100 min, water (30 ml) was added and the mixture was extracted with Et2O. The extract was washed with water, dried (Na2SO4) and the solvent evaporated in vacuo to give a residue which was purified by chromatography on a Biotage cartridge (90 g). Elution with EtOAc-petroleum ether (2:3) gave the title compound (2.82 g). LCMS RT=3.01 min ES+ve 370 (MH)+.

reactant | (1R)-2-{[2-(4-{[tert-butyl(dimethyl)silyl]oxy}phenyl)ethyl]amino}-1-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)ethanol | 4.803 g | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)CCNC[C@H](O)C1=CC2=C(OC(OC2)(C)C)C=C1 | C26H39NO4Si
reactant | 1,1′carbonyldimidazole | 1.702 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | Water | 125 ml | O | H2O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | (5R)-5-(2,2-Dimethyl-4H-1,3-benzodioxin-6-yl)-3-[2-(4-hydroxyphenyl)ethyl]-1,3-oxazolidin-2-one | 2.82 g | CC1(OCC2=C(O1)C=CC(=C2)[C@@H]2CN(C(O2)=O)CCC2=CC=C(C=C2)O)C | C21H23NO5
